US04740518
[10-Methoxy-4H-benzo[4,5]cyclohepta[1,2-b]thiophen-4-ylidene]-acetic acid ethyl ester
21.6 g pre-dried NaH are suspended in 0.9 l dimethylsulfoxide and 200 g ethoxycarbonylmethylen-diethylphosphonate [(C2H5O)2POCH2COOC2H5 ] are added drop-wise over ca. 1 hour, the temperature being maintained at ca. 25°-30° C. by light cooling. The obtained mixture is then stirred for 30 minutes at room temperature and 121 g 10-methoxy-4H-benzo[4,5]cyclohepta[1,2-b]thiophen-4-one dissolved with warming in 0.9 l dimethylformamide are then added in a single portion. The obtained reaction mixture is stirred for ca. 17 hours at ca. 95° C. under argon, and then stirred into a mixture of 7 l H2O/3 kg ice and 50 ml conc. HCl covered with a layer of 2 l ethylacetate. The organic phase is separated off and the aqueous phase extracted 3× with 2 l and 3× with 1 l ethyl acetate. The combined organic phases are washed 3× with 2 l H2O and 3× with 2 l saline, dried with MgSO4, filtered under suction and concentrated on a rotary evaporator to yield the title compound as a (Z,E)-isomer mixture: m.p.=91°-93° C.

reactant | NaH | 21.6 g | [H-].[Na+]
reactant | 10-methoxy-4H-benzo[4,5]cyclohepta[1,2-b]thiophen-4-one | 121 g | COC1=CC2=C(C(C3=C1SC=C3)=O)C=CC=C2 | C14H10O2S
reactant | H2O | 7 l, 3 kg | O | H2O
reactant | HCl | 50 ml | Cl | ClH
reactant | ethylacetate | 2 l | C(C)OC(C)=O | C4H8O2
solvent | dimethylsulfoxide | 0.9 l | CS(=O)C | C2H6OS
solvent | dimethylformamide | 0.9 l | CN(C=O)C | C3H7NO
product | [10-Methoxy-4H-benzo[4,5]cyclohepta[1,2-b]thiophen-4-ylidene]-acetic acid ethyl ester | C(C)OC(C=C1C2=C(C=C(C=3SC=CC31)OC)C=CC=C2)=O | C18H16O3S
